Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
 rash, R facial droop 
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
___ h/o asthma, otherwise generally very healthy presents with 
R facial droop.  Ms. ___ is a ___ and has traveled 
extensively as a result.  Nearly 4 wks ago, she went to ___ to ___ and reportedly cut through some paths as short 
cuts.  Subsequently, while she was in ___, she developed 
exquisite meningisums, fever, night sweats, and chills lasting 
reportedly for 1 week.  Approximately 2.5 weeks ago, she noted 
rash on her L breast and patchy rash on her legs - which was 
fleeting.  She had traveled to ___ nearly 2 weeks ago and 
developed thigh myalgia, arthralgia/arthritis of R ankle and R 
knee.  This resolved.  While in ___, she then developed R 
facial droop which steadily worsened.  She was started on 
prednisone 20 mg daily while there for presumed Bell's palsy.  
Describes mild headache, persistent pain & soreness in R 
ankle/knee and thigh, and sinus congestion for which she had 
been using pseduofed.    
   She returned and presented to ED due to worsening R facial 
droop.  
In ED, CSF was obtained showing mild pleocytosis, elevated RBC 
and protein.  Concern was for neuro Lyme - less likely HSV 
encephalitis - and thus given ceftriaxone, acyclovir and 
admitted for further mgmt.

ROS: per HPI, denies vision changes, rhinorrhea, sore throat, 
cough, shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  A 10 pt review of sxs was otherwise 
negative.
 
Past Medical History:
# asthma
# patella fracture ___

 
Social History:
___
Family History:
denies h/o neurological, cardiac family history

 
Physical Exam:
Vital Signs: 98.2 106/53 65 20 96% RA 
GEN: NAD, well-appearing, somnolent and sleeping while talking, 
otherwise alert
EYES: PERRL, EOMI, conjunctiva clear, anicteric, R eye 
incomplete closure
ENT: moist mucous membranes, no exudates 
NECK: supple, mild meningismus 
CV: RRR s1s2 nl, no m/r/g
PULM: CTA, no r/r/w 
GI: normal BS, NT/ND, no HSM  
EXT: warm, no c/c/e, no clear e/o synovitis
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, R facial LMN weakness, asymmetric labial fold 
PSYCH: appropriate
ACCESS: PIV
FOLEY: absent
. 
Discharge Exam: 
97.6 ___
Gen: NAD, lying in bed comfortably, speaking full sentences
without accessory muscle use
Eyes: EOMI, sclerae anicteric, R eye not blinking
ENT: MMM, OP clear, obvious R sided facial droop with forehead
involvement
Cardiovasc: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice. 
Neuro: AAOx3. Facial droop as above. Gait narrow based and 
steady, full strength except R droop.  
Psych: Full range of affect
GU: no foley, otherwise deferred

 
Pertinent Results:
(___): WBC 8.1  H/H 10.1/32.6 Plt 377
Gluc 82 BUN/Cr ___ Na 140 K 3.7 Cl 106 HCO3 22 Lactate 1.2

CSF: WBC 8 RBC 480 P8 L90 Mono2 Prot 65 Gluc 49

___ 07:25AM BLOOD WBC-5.0 RBC-3.27* Hgb-9.4* Hct-29.3* 
MCV-90 MCH-28.7 MCHC-32.1 RDW-14.6 RDWSD-47.0* Plt ___
___ 07:25AM BLOOD WBC-4.2 RBC-3.31* Hgb-9.5* Hct-29.9* 
MCV-90 MCH-28.7 MCHC-31.8* RDW-14.6 RDWSD-46.9* Plt ___
___ 07:25AM BLOOD Glucose-88 UreaN-19 Creat-0.6 Na-139 
K-4.3 Cl-107 HCO3-25 AnGap-11
___ 07:25AM BLOOD calTIBC-250* Ferritn-64 TRF-192*
___ 10:00PM CEREBROSPINAL FLUID (CSF) WBC-8 RBC-480* 
Polys-8 ___ ___ 10:00PM CEREBROSPINAL FLUID (CSF) TotProt-65* 
Glucose-49

  

Test Name                   Flag     Results        Unit    
Reference Value
---------                   ----     -------        ----    
---------------
Herpes Simplex Virus PCR
   Specimen Source                   CSF
   HSV 1, PCR                        Negative               
Negative
   HSV 2, PCR                        Negative               
Negative  

Test Requested        Flag      Result        Unit        
Reference Value
--------------        ----      ------        ----        
---------------
Lyme Disease Ab, Immunolot, S
  IgG Immunoblot       AB      Positive       kDa         
Negative          
    IgG Band(s): p93, p66, p58, p45, p41, p39, p30, p23, p18
 
  IgM Immunolot        AB      Positive       kDa         
Negative         
    IgM Band(s): p41, p39, p23

___ BLOOD CULTURE Blood Culture, 
Routine-PENDING 
___ CSF;SPINAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-PRELIMINARY 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING 
___ SEROLOGY/BLOOD LYME SEROLOGY-PRELIMINARY 

 
Brief Hospital Course:
___ with mild intermittent asthma presenting with cluster of 
symptoms and history very suggestive of secondary vs CNS Lyme, 
s/p LP, serologies confirming Lyme. 

# Lyme disease: Cranial nerve involvement suggests CNS Lyme but 
history alone suggests at least secondary Lyme disease. Given no 
other neurologic involvement, negative HSV CSF, transitioned to 
oral doxycycline from IV ceftriaxone/IV acyclovir. 
EKG without conduction abnormalities. R eye pad given until able 
to blink normally, artificial tears advised every ___ hours. 
- doxycycline 100mg BID to complete 28 day total course
- counseled on appropriate doxycycline use
- no ID follow up necessary
- ensure cranial nerve palsy improving in follow up
- establish care with new PCP

# Anemia: Likely in setting of infection, iron studies confirm 
chronic inflammation. Patient reports history of anemia as well. 

- repeat in follow up
 
# Asthma: stable, does not take Flovent as directed, takes only 
as needed, same as albuterol. 

Medically stable for discharge home without services.
>30 minutes spent on discharge day services, counseling and 
coordination of care. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing, SOB 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
2.  Artificial Tears ___ DROP RIGHT EYE Q1H:PRN dry eyes  
3.  Doxycycline Hyclate 100 mg PO Q12H 
avoid diary 1 hour before and after taking this medication.  
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*0 
4.  Ibuprofen 800 mg PO Q8H:PRN Pain - Severe  
5.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing, SOB  
6.  Fluticasone Propionate 110mcg 2 PUFF IH DAILY:PRN asthma  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lyme disease
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to the hospital with Lyme disease. ___ were 
started on IV antibiotics and switched to oral doxycycline, 
which ___ should take for a total of 28 days. 

With this medication, it is important to take with a glass of 
water and sit up for ___ minutes after each dose. ___ should 
AVOID milk/diary products, antacids/laxatives one hour BEFORE 
and one hour AFTER taking your medication. 

Please make sure to avoid the sun, wearing long sleeves and 
sunscreen. Drink plenty of liquids to avoid dehydration. 

Use your eye patch and artificial tears until your right eye is 
able to blink and close normally. 

Make sure ___ follow up with your new primary care doctor within 
___ weeks. 

We wish ___ the best. 

 
Followup Instructions:
___